US04895871
Step D: Synthesis of (4-chlorophenyl) (2,3-dihydro-2,2-dimethylbenzofuran-5-yl) ketone hydrazone (Compound 1)
This compound was prepared in a manner analogous to that of Example 1, Step D, using 1.4 grams (0.005 mole) of (4-chlorophenyl) (2,3-dihydro-2,2-dimethylbenzofuran-5-yl)ketone, 0.4 mL (0.008 mole) of hydrazine hydrate, and 0.3 mL of acetic acid in 50 mL of ethanol. The yield of (4-chlorophenyl) (2,3-dihydro-2,2-(dimethyl- benzofuran-5-yl) ketone hydrazone was 1.23 grams. The nmr spectrum was consistent with the proposed structure.

reactant | (4-chlorophenyl) (2,3-dihydro-2,2-dimethylbenzofuran-5-yl)ketone | 0.005 mole, 1.4 grams | ClC1=CC=C(C=C1)C(=O)C=1C=CC2=C(CC(O2)(C)C)C1 | C17H15ClO2
reactant | hydrazine hydrate | 0.008 mole, 0.4 mL | O.NN
reactant | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (4-chlorophenyl) (2,3-dihydro-2,2-dimethylbenzofuran-5-yl) ketone hydrazone | CC1(OC2=C(C1)C=C(C=C2)C(C2=CC=C(C=C2)Cl)=NN)C | C17H17ClN2O
